US09024027B2
To a stirred solution of tert-butyl 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetate (450 mg, 0.967 mmol) in dioxane (7 ml), 4 M HCl in dioxane (2.5 ml, 10.00 mmol) was added. The reaction was heated at 100° C. under microwave irradiation for 4 hours. The volatiles were removed under vacuum and the resulting solid was triturated with Et2O and recovered by filtration affording 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetic acid hydrochloride (407 mg, 0.913 mmol, 94% yield, MS/ESI+ 409.8 [MH]+).

reactant | tert-butyl 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetate | 0.967 mmol, 450 mg | O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CCN1CCCCC1)=O)CC(=O)OC(C)(C)C | C22H31N3O6S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10.00 mmol, 2.5 ml | O1CCOCC1 | C4H8O2
product | 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetic acid hydrochloride | 0.913 mmol, 407 mg, 94% yield | Cl.O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CCN1CCCCC1)=O)CC(=O)O | InChI=1S/C18H23N3O6S.ClH/c1-28(26,27)21(10-9-19-7-3-2-4-8-19)13-5-6-14-15(11-13)18(25)20(17(14)24)12-16(22)23;/h5-6,11H,2-4,7-10,12H2,1H3,(H,22,23);1H
